US09079866B2
5-(2′-Chloro-3-fluorobiphenyl-4-yl)pyrazin-2-amine
The title compound was prepared using analogous conditions to those described in Example 1 utilizing 5-(2-fluoro-4-(4,4,5,5-tetramethyl-1,3,2-dioxaborolan-2-yl)phenyl)pyrazin-2-amine and 2-bromochlorobenzene. MS (ESI): mass calcd. for C16H11ClFN3, 299.06; m/z found, 300.1 [M+H]+. 1H NMR (600 MHz, CDCl3) δ 8.60 (s, 1H), 8.12 (s, 1H), 7.98 (m, 1H), 7.54-7.44 (m, 1H), 7.41-7.23 (m, 5H), 4.68 (s, 2H).

reactant | 5-(2-fluoro-4-(4,4,5,5-tetramethyl-1,3,2-dioxaborolan-2-yl)phenyl)pyrazin-2-amine | FC1=C(C=CC(=C1)B1OC(C(O1)(C)C)(C)C)C=1N=CC(=NC1)N | C16H19BFN3O2
reactant | 2-bromochlorobenzene | BrC1=C(C=CC=C1)Cl | C6H4BrCl
product | 5-(2′-Chloro-3-fluorobiphenyl-4-yl)pyrazin-2-amine | ClC1=C(C=CC=C1)C1=CC(=C(C=C1)C=1N=CC(=NC1)N)F | C16H11ClFN3
